US03946009
By replacing the 2-hydroxy-3-methyl-5-bromopyrazine used in Step A of Preparation 87 by an equivalent quantity of 2-hydroxy-3-ethyl-5-bromopyrazine and following substantially the same procedure, there is obtained 2,5-dibromo-3-ethylpyrazine.

reactant | 2-hydroxy-3-methyl-5-bromopyrazine | OC1=NC=C(N=C1C)Br | C5H5BrN2O
reactant | 2-hydroxy-3-ethyl-5-bromopyrazine | OC1=NC=C(N=C1CC)Br | C6H7BrN2O
product | 2,5-dibromo-3-ethylpyrazine | BrC1=NC=C(N=C1CC)Br | C6H6Br2N2
